US07728023B2
{1-[(7-bromo-1H-indol-3-yl)methyl]cyclopropyl}acetonitrile
To a toluene (12 mL) solution of 7-bromoindole (1.00 g), [1-bromomethyl)cyclopropyl]acetonitrile (444 mg) was added and a diethyl ether solution (1.7 mL) of 3M ethylmagnesium bromide was added dropwise under ice cooling, and then the mixture was refluxed for 2.5 hours. To the reaction mixture, an aqueous saturated ammonium chloride solution was added under ice cooling, followed by extraction with ethyl acetate. The organic layer was washed with water and saturated saline, dried over anhydrous sodium sulfate and then filtered. The filtrate was concentrated and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=90:10 to 80:20) to obtain the titled compound having the following physical properties (390 mg).

reactant | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
reactant | 7-bromoindole | 1.00 g | BrC=1C=CC=C2C=CNC12 | C8H6BrN
reactant | ethylmagnesium bromide | 3M | C(C)[Mg]Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | 1.7 mL | C(C)OCC | C4H10O
solvent | acetonitrile | 444 mg | C(C)#N | C2H3N
product | {1-[(7-bromo-1H-indol-3-yl)methyl]cyclopropyl}acetonitrile | BrC=1C=CC=C2C(=CNC12)CC1(CC1)CC#N | C14H13BrN2
